US03991087
Step D: Preparation of Ethyl 8-Acetyl-8-phenyl-12-benzyloxyheptadecanoate
Sodium hydride (0.8 g., 0.033 mole) is suspended in a mixture of benzene (50 ml.) and dimethylformamide (50 ml.) and 3-phenyl-7-benzyloxy-2-dodecanone (12.1 g., 0.033 mole) is added dropwise. The resulting mixture is heated on the steam bath for one hour and then cooled to room temperature. Ethyl 7-bromoheptanoate (8.8 g., 0.037 mole) is added dropwise and the mixture is heated on the steam bath for 24 hours. The reaction mixture is cooled, poured into water (200 ml.) and the oily product taken up into ether and dried over sodium sulfate. The solvent is distilled in vacuo to leave 14 g. of ethyl 8-acetyl-8-phenyl-12-benzyloxyheptadecanoate as a yellow oil which is used in Step G without further purification.

reactant | Sodium hydride | 0.033 mole, 0.8 g | [H-].[Na+]
reactant | 3-phenyl-7-benzyloxy-2-dodecanone | 0.033 mole, 12.1 g | C1(=CC=CC=C1)C(C(C)=O)CCCC(CCCCC)OCC1=CC=CC=C1 | C25H34O2
reactant | Ethyl 7-bromoheptanoate | 0.037 mole, 8.8 g | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | water | 200 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Ethyl 8-Acetyl-8-phenyl-12-benzyloxyheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(CCCCC)OCC1=CC=CC=C1)C1=CC=CC=C1 | C34H50O4
